US07371779B2
Aqueous hydrogen peroxide (27.5 wt % solution in water, 145 μl) was added to a solution of 3-formyl-2-heptyl-4(1H)-quinolone (1 mmol) in EtOH (3 ml) and 1M NaOH solution (1.0 ml) under nitrogen, and the mixture was stirred at room temperature for 6 hours. The precipitate was removed by filtration, air dried and crystallised from EtOAc to give 2-heptyl-3-hydroxy-4(1M-quinolone in 70% yield as off-white needles, mp 195-197° C.

reactant | hydrogen peroxide | 145 μl | OO | H2O2
reactant | 3-formyl-2-heptyl-4(1H)-quinolone | 1 mmol | C(=O)C1=C(NC2=CC=CC=C2C1=O)CCCCCCC | C17H21NO2
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | NaOH | 1M, 1.0 ml | [OH-].[Na+]
product | quinolone | 70% yield | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
